US06156747
Sodium hydride (60%) (0.0899 mol) was added portionwise under N2 at room temperature to a mixture of 2-hydroxybenzaldehyde (0.0818 mol) in N,N-dimethyl-formamide and the mixture was stirred under N2 for 15 minutes. 2-Chloro-3-nitro-pyridine (0.0818 mol) in N,N-dimethylformamide was added and the mixture was stirred at 100° C. for 2 hours. The mixture was poured into ice/water, extracted with diethylether and the solvent was evaporated, yielding 4.5 g (23%) of 2-[(3-nitro-2-pyridinyl)oxy]benzaldehyde (interm. 1).

reactant | Sodium hydride | 0.0899 mol | [H-].[Na+]
reactant | 2-hydroxybenzaldehyde | 0.0818 mol | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | 2-Chloro-3-nitro-pyridine | 0.0818 mol | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | N,N-dimethyl-formamide | CN(C=O)C | C3H7NO
product | 2-[(3-nitro-2-pyridinyl)oxy]benzaldehyde | 4.5 g, 23% | [N+](=O)([O-])C=1C(=NC=CC1)OC1=C(C=O)C=CC=C1 | C12H8N2O4
